US07700594B2
3-Cyclobutyl-1-[1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]imidazo[1,5-a]pyrazin-8-amine
A mixture of N-(2-trimethylsilyl-1-ethoxymethyl)-2-(tributylstannyl)-1H-pyrrolo[2,3-b]pyridine (110 mg, 0.20 mmol), 3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine (50 mg, 0.1592 mmol) and bis(triphenylphosphine)palladium(II) chloride (10 mg, 0.02 mmol) in ethanol (2 mL) was heated at reflux for 48 h. The mixture was then cooled to rt, filtered through a pad of Celite and concentrated in vacuo. The residue thus obtained was chromatographed over silica gel eluting with hex:EtOAc to afford 17.2 mg of the title compound. 1H NMR (400 MHz CDCl3) δ 0.22 (s, 9H), 0.70 (t, 2H), 1.87-2.19 (m, 2H), 2.49-2.64 (m, 4H), 3.37 (t, 2H), 3.81-3.86 (m, 1H), 5.51 (bs, 2H), 6.07 (s, 2H), 6.67 (s, 1H), 7.10-7.16 (m, 3H), 7.93 (dd, J=1.6, 8.0 Hz, 1H) and 8.41 (dd, J=1.6, 4.8 Hz, 1H). MS (ES+): m/z: 435.21 [MH+].

reactant | N-(2-trimethylsilyl-1-ethoxymethyl)-2-(tributylstannyl)-1H-pyrrolo[2,3-b]pyridine | 0.20 mmol, 110 mg | C[Si](CCOCN1C(=CC=2C1=NC=CC2)[Sn](CCCC)(CCCC)CCCC)(C)C
reactant | 3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine | 0.1592 mmol, 50 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)I | C10H11IN4
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Cyclobutyl-1-[1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]imidazo[1,5-a]pyrazin-8-amine | 17.2 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=1C(=NC=CC1)N2COCC[Si](C)(C)C | C23H30N6OSi
